US07595312B2
1c diethyl[2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonate
A solution of 168.0 g (0.56 mol) (R)-4-benzyl-3-(2-bromo-acetyl)-oxazolidin-2-one and 188.6 mL (1.1 mol) of triethylphosphite was stirred for 1.5 h at 60° C., while the ethylbromide formed was distilled off. The reaction mixture was concentrated by evaporation i. vac. and the residue remaining was purified by chromatography on silica gel. The desired product was obtained in the form of a yellowish-brown oil.

reactant | (R)-4-benzyl-3-(2-bromo-acetyl)-oxazolidin-2-one | 0.56 mol, 168.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CBr)=O | C12H12BrNO3
reactant | triethylphosphite | 1.1 mol, 188.6 mL | C(C)OP(OCC)OCC | C6H15O3P
reactant | ethylbromide | C(C)Br | C2H5Br
product | diethyl[2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonate | C(C)OP(OCC)(=O)CC(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O | C16H22NO6P
